Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
___ - Colonoscopy

 
History of Present Illness:
Ms. ___ is a ___ with PMHx of MS who presents for DOE from 
her PCP office for anemia.  She notes that over the past two 
weeks she has had SOB with usual activities without evidence of 
chest pain. She notes that she has had increasing BRBPR as well. 
She has a history of internal hemorroidal bleeding, s/p banding 
previously.  She does note some palpitations throughout this 
time.  She also carries a diagnosis of MS, and has been using 
NSAIDs at home, though not with any regularity. She denies any 
abd pain, nausea, vomiting, hematemesis or melena. 
 
Past Medical History:
Tobacco dependence 
Myelitis 
Multiple sclerosis 
Leiomyoma of uterus 
Acne 
Eczema 
Hypertension, essential 
Rectal bleeding 
Hematuria 
Fibroids 
Internal hemorrhoids 
Herpes progenitalis 
Spasticity 
Arthritis of left shoulder region 
IMMUNOSUPPRESSED STATE DUE TO MEDICATION 
Optic neuritis 
Umbillical hernia repair with mesh
 
Social History:
___
Family History:
No family history of IBD
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
======================
VS:  98.6 PO 145/67 L Lying 90 18 100 RA 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, conjunctiva pale, 
MMM
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
RECTAL: Large hemorrhoid at anal verge, deferred internal exam, 
bright red blood in bedpan
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose, notes 
decreased sensation to light touch in bilateral hands and feet 
(baseline)
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE PHYSICAL EXAM
======================
VS:  97.8PO 133 / 66 78 18 100 RA
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, conjunctiva pale, 
MMM
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB  
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
RECTAL: deferred
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose, notes 
decreased sensation to light touch in bilateral hands and feet 
(baseline)
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
ADMISSION LAB RESULTS
===================
___ 09:15PM BLOOD WBC-8.0 RBC-2.48* Hgb-7.8* Hct-23.9* 
MCV-96 MCH-31.5 MCHC-32.6 RDW-12.9 RDWSD-45.5 Plt ___
___ 09:15PM BLOOD Glucose-88 UreaN-7 Creat-0.7 Na-139 K-3.9 
Cl-104 HCO3-20* AnGap-15
___ 09:15PM BLOOD ___

DISCHARGE LAB RESULTS
====================
___ 07:10AM BLOOD WBC-7.9 RBC-2.59* Hgb-8.0* Hct-24.9* 
MCV-96 MCH-30.9 MCHC-32.1 RDW-13.5 RDWSD-47.9* Plt ___
___ 07:10AM BLOOD Glucose-84 UreaN-6 Creat-0.6 Na-142 K-4.2 
Cl-112* HCO3-15* AnGap-15

IMAGING/STUDIES
==============
___ Colonoscopy:
Internal hemorrhoids
Normal mucosa in the whole colon
Normal mucosa in the terminal ileum
Semi-solid and liquid stool was noted scattered in the whole 
colon. This was copiously irrigated and the patient was 
re-positioned to improve mucosal visualization. Despite these 
measures, small size pathology may have been missed.
Otherwise normal colonoscopy to cecum

 
Brief Hospital Course:
___ is a ___ with PMHx of MS and hemorrhoids 
presenting with two weeks of anemia and bright red blood per 
rectum.

#Acute Blood Loss and ___ Deficiency Anemia secondary to 
internal hemorrhoids. 
She presented with two weeks of bright red blood per rectum with 
each bowel movement. She received a blood transfusion with 1U 
pRBCs. She had a colonoscopy on ___ which showed internal 
hemorrhoids. No intervention was done. The patient remained 
hemodynamically stable. She should follow-up with Colorectal 
surgery for banding of internal hemorrhoids. Of note, she was 
found to be ___ deficient. She should receive IV ___ infusions 
as PO ___ can worsen her constipation and thus worsen the 
hemorrhoids. She should also ensure that she has ___ soft bowel 
movements per day. 

#MS
___ home glatiramer. Continued home baclofen prn.

#HTN
Held home labetalol in setting of GI bleed and normotension. 

#H/o HSV
Continued home acyclovir

TRANSITIONAL ISSUES
===================
- Patient should follow-up with ___ Colorectal Surgery for 
expedited appointment
- She was found to be ___ deficient. She should have IV ___ 
infusions as PO ___ supplementation will worsen constipation 
and worsen internal hemorrhoids. 
- Labetalol held at discharge as patient was normotensive. 
Please restart as needed.
- Patient should have ___ soft bowel movements per day. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. glatiramer 40 mg/mL subcutaneous 3X/WEEK 
2. Acyclovir 400 mg PO Q12H 
3. Gabapentin 300 mg PO QHS 
4. Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
5. Tretinoin 0.025% Cream 1 Appl TP QHS 
6. Hydrocortisone Acetate Suppository ___ID 
7. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
8. Fluocinolone Acetonide 0.025% Cream 1 Appl TP BID 
9. clindamycin-benzoyl peroxide 1.2 %(1 % base) -5 % topical QHS 

10. Baclofen 10 mg PO TID:PRN Muscle Spasms 
11. Labetalol 200 mg PO BID 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q12H  
2.  Baclofen 10 mg PO TID:PRN Muscle Spasms  
3.  clindamycin-benzoyl peroxide 1.2 %(1 % base) -5 % topical 
QHS  
4.  Fluocinolone Acetonide 0.025% Cream 1 Appl TP BID  
5.  Gabapentin 300 mg PO QHS  
6.  glatiramer 40 mg/mL subcutaneous 3X/WEEK  
7.  Hydrocortisone Acetate Suppository ___ID  
8.  Tretinoin 0.025% Cream 1 Appl TP QHS  
9.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID  
10. HELD- Ibuprofen 600 mg PO Q8H:PRN Pain - Mild  This 
medication was held. Do not restart Ibuprofen until your 
bleeding stops. 
11. HELD- Labetalol 200 mg PO BID  This medication was held. Do 
not restart Labetalol until you are told to do so by your 
primary care doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Internal hemorrhoids

Secondary Diagnosis:
- Multiple sclerosis
- Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were hospitalized at ___. 

Why did you come to the hospital?
=================================
- You came to the hospital because you were having bright red 
blood from your rectum.

What did we do for you?
=======================
- We gave you a blood transfusion
- You had a colonoscopy. The colonoscopy showed internal 
hemorrhoids. 
- Your blood count remained stable. 

What do you need to do?
=======================
- Please continue to make sure that you have ___ soft bowel 
movements per day. You can take Senna, Colace, Miralax, OR fiber 
supplementation. 
- Please follow-up with your primary care doctor on ___, ___
- Please follow-up with ___ Colorectal surgery. Please call 
them on ___ at ___ and ask for an expedited 
appointment. 
- If you have worsening bleeding from your rectum, or feel more 
dizzy or lightheaded, please go back to urgent care or come back 
to the emergency room.
- Please stop taking your labetalol until you are told to 
restart it by your primary care doctor.  
- Talk to your primary care doctor ___ infusions. 
- Do not take Advil. If you have a headache, please take 
Tylenol. 

It was a pleasure caring for you. We wish you the best!

Sincerely,
Your ___ Medicine Team
 
Followup Instructions:
___